US07405210B2
Preparation 27: 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
Sodium hydroxide solution (1.1 mL, 2M, 2.23 mmol) was added to a solution of 5-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester (Preparation 26, 500 mg, 1.86 mmol) in ethanol (20 mL), and the reaction mixture heated under reflux for 1.5 h and then concentrated in vacuo. The residue was dissolved in water (15 mL) and acidified with acetic acid resulting in formation of a brown precipitate. The solid was collected by filtration and dried to give the title compound as a brown solid. δH (d6 DMSO): 7.08 (1H, s), 7.97 (1H, s), 8.60 (1H, s); m/z (ES+)=241 [M+H]+.

reactant | Sodium hydroxide | 2.23 mmol, 2M, 1.1 mL | [OH-].[Na+]
reactant | 5-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.86 mmol, 500 mg | C(C)OC(=O)C1=CC=2C(=CN=C(C2)Br)N1 | C10H9BrN2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | BrC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5BrN2O2
